US04198419
A mixture of 2.03 g of 4-ethylcarbonyl-4-(2-phenylthiophenyl)piperidine hydrochloride, Example 11, 1.3 g of β-bromoethylbenzene, 3 g of sodium bicarbonate and 2 g of potassium iodide in 15 ml of dimethylformamide is stirred at 70° C. for 16 hours. Thereafter, the mixture is permitted to cool before being diluted with 100 ml of water and 200 ml of ether. Layers separate and the ether solution is dried. The ether is evaporated off leaving a brownish oil which is purified by column chromatography (alumina column, ether eluant). The resulting product is converted to a crystalline hydrobromic acid salt which is recrystallized from an acetone-ether mixture to provide the product, 4-ethylcarbonyl-1-phenethyl-4-(2-phenylthiophenyl)piperidine hydrobromide.

reactant | 4-ethylcarbonyl-4-(2-phenylthiophenyl)piperidine hydrochloride | 2.03 g | Cl.C(C)C(=O)C1(CCNCC1)C1=C(C=CC=C1)SC1=CC=CC=C1
reactant | β-bromoethylbenzene | 1.3 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | sodium bicarbonate | 3 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 2 g | [I-].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-ethylcarbonyl-1-phenethyl-4-(2-phenylthiophenyl)piperidine hydrobromide | Br.C(C)C(=O)C1(CCN(CC1)CCC1=CC=CC=C1)C1=C(C=CC=C1)SC1=CC=CC=C1 | InChI=1S/C28H31NOS.BrH/c1-2-27(30)28(18-21-29(22-19-28)20-17-23-11-5-3-6-12-23)25-15-9-10-16-26(25)31-24-13-7-4-8-14-24;/h3-16H,2,17-22H2,1H3;1H
